US08420682B2
87 mg (0.63 mmol, 1 eq.) of potassium carbonate are added to a solution of 200 mg (0.63 mmol, 1 eq.) of 4-(2,4-dioxo-1,3-diazaspiro[4.5]dec-1-yl)benzoic acid ethyl ester and 160 mg (0.63 mmol, 1 eq.) of 2-chloro-N-(2,6-diisopropylphenyl)acetamide in 30 ml of dimethylformamide. The reaction medium is stirred at room temperature overnight. It is then poured into water and extracted with ethyl acetate. The organic phases are combined and washed with water. They are dried over sodium sulfate. The solvents are evaporated off. The residue is precipitated from dichloromethane and heptane. The product 4-{3-[(2,6-diisopropyl-phenylcarbamoyl)methyl]-2,4-dioxo-1,3-diaza-spiro[4.5]dec-1-yl}benzoic acid ethyl ester is obtained in the form of a white solid.

reactant | potassium carbonate | 0.63 mmol, 87 mg, 1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2,4-dioxo-1,3-diazaspiro[4.5]dec-1-yl)benzoic acid ethyl ester | 0.63 mmol, 200 mg, 1 eq. | C(C)OC(C1=CC=C(C=C1)N1C(NC(C12CCCCC2)=O)=O)=O | C17H20N2O4
reactant | 2-chloro-N-(2,6-diisopropylphenyl)acetamide | 0.63 mmol, 160 mg, 1 eq. | ClCC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C14H20ClNO
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-{3-[(2,6-diisopropyl-phenylcarbamoyl)methyl]-2,4-dioxo-1,3-diaza-spiro[4.5]dec-1-yl}benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N1C(N(C(C12CCCCC2)=O)CC(NC2=C(C=CC=C2C(C)C)C(C)C)=O)=O)=O | C31H39N3O5
